US06822097B1
Step (a) Preparation of methyl 2-[2-(2-ethyl-4-pyridyl)-1,3-thiazol-4-yl]acetate
A mixture of ethionamide (Aldrich) (1.65 g, 10.0 mmol) and methyl 4-chloroacetoacetate (Fluka) (1.41 g, 10.0 mmol) in 50 mL of anhydrous MeOH was heated at reflux for 18 h. The solvent was evaporated to give an oily residue that was purified by chromatography (gradient elution: 10-50% EtOAc in hexanes) to afford the title compound as a light brown oil. MS m/z: 263 (M+1). Calc'd for C13H14N2O2S: 262.08.

reactant | ethionamide | 10.0 mmol, 1.65 g | CCC=1C=C(C=CN1)C(=S)N | C8H10N2S
reactant | methyl 4-chloroacetoacetate | 10.0 mmol, 1.41 g | ClCC(CC(=O)OC)=O | C5H7ClO3
solvent | MeOH | 50 mL | CO | CH4O
product | methyl 2-[2-(2-ethyl-4-pyridyl)-1,3-thiazol-4-yl]acetate | C(C)C1=NC=CC(=C1)C=1SC=C(N1)CC(=O)OC | C13H14N2O2S
